US04432971
(b) N-[N-[(1,1-Dimethylethoxy)carbonyl]-L-alanyl]-N-methylglycine, ethyl ester
A mixture of N-[(1,1-dimethylethoxy)-carbonyl]-L-alanine (2.48 g., 13.1 mmole) and dry chloroform (20 ml.) at -20° under argon is treated with N-methylmorpholine (1.47 ml., 1.0 eq.) and isobutylchloroformate (1.8 ml., 1.0 eq.) and stirred for 20 minutes. N-Methylglycine, ethyl ester, hydrochloride (2.0 g., 1.0 eq.) and N-methyl morpholine (1.47 ml.) are added. After one hour, the ice-bath is removed and the reaction mixture is stirred for an additional 3 hours. The mixture is then partitioned between ethyl acetate/5% potassium bisulfate, and the organic phase is washed with 5% potassium bisulfate, saturated sodium bicarbonate, dried (Na2SO4), and evaporated to give 3.7 g. of crude N-[N-(1,1-dimethylethoxy)carbonyl]-L-alanyl]-N-methylglycine, ether ester as an oil. Tlc (ethyl acetate/hexane, 1:2) shows a major spot at Rf =0.22.

reactant | N-[(1,1-dimethylethoxy)-carbonyl]-L-alanine | 13.1 mmole, 2.48 g | CC(C)(OC(=O)N[C@@H](C)C(=O)O)C | C8H15NO4
reactant | N-methylmorpholine | 1.47 ml, 1.0 eq. | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.8 ml, 1.0 eq. | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-Methylglycine, ethyl ester, hydrochloride | 2.0 g, 1.0 eq. | Cl.CNCC(=O)OCC
reactant | N-methyl morpholine | 1.47 ml | CN1CCOCC1 | C5H11NO
reactant | N-methylglycine | CNCC(=O)O | C3H7NO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[N-[(1,1-Dimethylethoxy)carbonyl]-L-alanyl]-N-methylglycine, ethyl ester | CC(C)(OC(=O)N[C@@H](C)C(=O)N(CC(=O)OCC)C)C | C13H24N2O5
